US05661150
[Referential Example 2]5,6-Dimethoxy-1-(3,4-dimethoxy-benzyl)-1H-indazole-3-methanol
5,6-Dimethoxy-l-(3,4-dimethoxybenzyl)-1H-indazole-3-carboxylate (205.0 g) was ground in a mortar and suspended in tetrahydrofuran (1500 ml) at room temperature. Then sodium borohydride (96.8 g) was added thereto and the mixture was stirred at room temperature. Methanol (300 ml) was slowly added dropwise thereinto within 30 minutes. After the completion of the addition, the reaction mixture was heated to 50° C. and stirred for 5 hours. After adding sodium borohydride (19.4 g) and methanol (60 ml), the mixture was stirred at room temperature overnight. Then the reaction mixture was added in portions into a mixture of conc. hydrochloric acid (200 ml), water (5000 ml) and ice (1 kg) under stirring (pH 1-2). To this aqueous layer, a saturated aqueous solution of sodium bicarbonate was added with stirring at room temperature until the pH became about 8. As a result, a colorless solid was precipitated. This precipitate was collected by filtration, washed with water (500 ml×2), dissolved in chloroform (10000 ml), dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure. Thus a colorless solid (185.2 g) was obtained. This solid product was used in the subsequent reaction without purification.

reactant | 5,6-Dimethoxy-l-(3,4-dimethoxybenzyl)-1H-indazole-3-carboxylate | 205.0 g | COC=1C=C2C(=NN(C2=CC1OC)CC1=CC(=C(C=C1)OC)OC)C(=O)[O-]
reactant | sodium borohydride | 96.8 g | [BH4-].[Na+]
reactant | sodium borohydride | 19.4 g | [BH4-].[Na+]
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 1500 ml | O1CCCC1 | C4H8O
solvent | water | 5000 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
solvent | Methanol | 300 ml | CO | CH4O
product | 5,6-Dimethoxy-1-(3,4-dimethoxy-benzyl)-1H-indazole-3-methanol | 185.2 g | COC=1C=C2C(=NN(C2=CC1OC)CC1=CC(=C(C=C1)OC)OC)CO | C19H22N2O5
